US06207693B1
To a solution of 3-nitro-1,2-phenylenediamine (1.0 g) and triethylamine (793 mg) in dichloromethane (3 ml) under nitrogen was added portionwise phthalylglycyl chloride (1.61 g) in ice water bath and the mixture was stirred at the same temperature for 2 hours. The reaction mixture was washed with saturated sodium bicarbonate aqueous solution, dried over magnesium sulfate and evaporated in vacuo. To the resulting crude product was added polyphosphoric acid (5 ml) and stirred at 130° C. for 3 hours. After the mixture was cooled at ambient temperature, ammonia solution (28%) was added to the reaction mixture in ice water bath. The precipitate was collected by vacuum filtration to give 2-phthalimidomethyl-4-nitro-1H-benzimidazole (1.35 g).

reactant | 3-nitro-1,2-phenylenediamine | 1.0 g | [N+](=O)([O-])C=1C(=C(C=CC1)N)N | C6H7N3O2
reactant | triethylamine | 793 mg | C(C)N(CC)CC | C6H15N
reactant | phthalylglycyl chloride | 1.61 g | C1=CC=C2C(=C1)C(=O)N(C2=O)CC(=O)Cl | C10H6ClNO3
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | 2-phthalimidomethyl-4-nitro-1H-benzimidazole | 1.35 g | C1(C=2C(C(N1CC1=NC3=C(N1)C=CC=C3[N+](=O)[O-])=O)=CC=CC2)=O | C16H10N4O4
